US04021539
N-(β-piperazino-ethyl)-glucamine
The product was made from D-glucose and N-(β-aminoethyl)-piperazine comparable as in Example A. A resin-like, pale pink product was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | N-(β-aminoethyl)-piperazine | NCCN1CCNCC1 | C6H15N3
product | N-(β-piperazino-ethyl)-glucamine | N1(CCNCC1)CCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C12H27N3O5
